US08252806B2
Cyclooctyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride (Compound A10)
Was prepared according to Method A from 2,4-dichloroquinazoline, cyclooctylamine and 3,5-dimethylpyrazole. Mp. 211° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | cyclooctylamine | C1(CCCCCCC1)N | C8H17N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | Cyclooctyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride | Cl.C1(CCCCCCC1)NC1=NC(=NC2=CC=CC=C12)N1N=C(C=C1C)C | InChI=1S/C21H27N5.ClH/c1-15-14-16(2)26(25-15)21-23-19-13-9-8-12-18(19)20(24-21)22-17-10-6-4-3-5-7-11-17;/h8-9,12-14,17H,3-7,10-11H2,1-2H3,(H,22,23,24);1H
